US07786165B2
2-[(4-bromo-3,5-dimethylphenyl)thio]ethyl ethyl ether
To a solution of 2-[(3,5-dimethylphenyl)thio]ethyl ethyl ether (2.69 g, 12.8 mmol) in acetic acid (60 mL) was slowly added dropwise a solution of bromine (0.68 mL, 13.2 mmol) in acetic acid (30 mL) under stirring at room temperature. The reaction mixture was stirred at the same temperature for 2 hr, poured into cold water, and the mixture was extracted with diethyl ether. The extract was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=20/1) to give the title compound (2.41 g, yield 65%) as a pale-yellow oil.

reactant | 2-[(3,5-dimethylphenyl)thio]ethyl ethyl ether | 12.8 mmol, 2.69 g | C(C)OCCSC1=CC(=CC(=C1)C)C | C12H18OS
reactant | bromine | 13.2 mmol, 0.68 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-[(4-bromo-3,5-dimethylphenyl)thio]ethyl ethyl ether | 2.41 g, yield 65% | C(C)OCCSC1=CC(=C(C(=C1)C)Br)C | C12H17BrOS
